US05770597
i) Preparation of 1-cyclopropyl-3-nitroacetyl-6,7-difluoro-8-methoxy-4-oxo-1,4-dihydroquinoline
566 mg of 1-cyclopropyl-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid and 648 mg of CDI were put into 20 ml of THF and the mixture solution is stirred under reflux for 24 hours (A solution). 366 mg of nitromethane was mixed in 5 ml of THF and 240 mg of 60% NaH added thereto. The mixture solution was stirred for 24 hours at room temperature and the above A solution was added thereto. The resulting solution was stirred under reflux for 14 hours. The reaction mixture was cooled and the solvent was evaporated under reduced pressure. The produced residue was purified by column chromatography (nucleic acid: ethylacetate =5 : 1) to give 450 mg of the above title compound (yield: 69%).

reactant | 1-cyclopropyl-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 566 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | CDI | 648 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | nitromethane | 366 mg | [N+](=O)([O-])C | CH3NO2
reactant | NaH | 240 mg | [H-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-cyclopropyl-3-nitroacetyl-6,7-difluoro-8-methoxy-4-oxo-1,4-dihydroquinoline | 450 mg, yield: 69% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(C[N+](=O)[O-])=O | C15H12F2N2O5
